US04277501
n-Heptylamine was reacted with 4-(4-nitrophenyl)butanoyl chloride to provide 29.3 g. of N-n-heptyl-4-(4-nitrophenyl)butyramide. The amide was reacted with diborane to afford 25.8 g. of N-n-heptyl-4-(4-nitrophenyl)butylamine. The amine was dissolved in 70 ml. of acetone and added in one portion to 70 ml. of water containing 18.5 g. of sodium carbonate. The aqueous reaction mixture was stirred while 14.4 ml. of acetyl chloride in 70 ml. of acetone was added dropwise over one hour. The reaction mixture was stirred at room temperature for sixteen hours following the addition, and then the mixture was concentrated by evaporation of the acetone solvent under reduced pressure. The aqueous layer was extracted with diethyl ether, and the ethereal extract was then washed with water, with 2 N hydrochloric acid, again with water, and finally with saturated sodium chloride solution. The solution was dried and the solvent was removed by evaporation under reduced pressure to give 28.78 g of N-acetyl-N-n-heptyl-4-(4-nitrophenyl)butylamine.

reactant | n-Heptylamine | C(CCCCCC)N | C7H17N
reactant | 4-(4-nitrophenyl)butanoyl chloride | [N+](=O)([O-])C1=CC=C(C=C1)CCCC(=O)Cl | C10H10ClNO3
reactant | N-n-heptyl-4-(4-nitrophenyl)butyramide | C(CCCCCC)NC(CCCC1=CC=C(C=C1)[N+](=O)[O-])=O | C17H26N2O3
reactant | diborane | B#B | B2
reactant | N-n-heptyl-4-(4-nitrophenyl)butylamine | C(CCCCCC)NCCCCC1=CC=C(C=C1)[N+](=O)[O-] | C17H28N2O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | acetone | CC(=O)C | C3H6O
solvent | water | 18.5 g | O | H2O
product | N-acetyl-N-n-heptyl-4-(4-nitrophenyl)butylamine | 28.78 g | C(C)(=O)N(CCCCCCC)CCCCC1=CC=C(C=C1)[N+](=O)[O-] | C19H30N2O3
